US04412856
To a solution of 11.07 g (0.04 mole) of 1-(3-hydroxy-3-methyl-1-butyn-1-yl)-4-(2-diethylaminoethoxy)benzene and 8.4 g (0.04 mole) of 2-iodothiophene in 135 ml of triethylamine are added, under nitrogen, 4.95 g of pulverised potassium hydroxide. Then 310 mg of the palladium complex PdCl2 [P(C6H5)3 ]2 and 180 ml of copper(I) iodide are added and the reaction mixture is stirred for 20 hours at boiling temperature. The reaction mixture is taken up in 250 ml of ether and the solution is washed 3 times with 100 ml of water and once with saturated sodium chloride solution, dried over sodium sulfate and evaporated to dryness. The residue is chromatographed on silica gel with 96% of ether/4% of methanol (saturated with NH3), affording 9 g (75%) of 1-[4-(2-thienylethynyl)phenoxy]-2-diethylaminoethane in the form of a colourless oil with a refractive index of nD30 :1.6170.

reactant | 1-(3-hydroxy-3-methyl-1-butyn-1-yl)-4-(2-diethylaminoethoxy)benzene | 0.04 mole, 11.07 g | OC(C#CC1=CC=C(C=C1)OCCN(CC)CC)(C)C | C17H25NO2
reactant | 2-iodothiophene | 0.04 mole, 8.4 g | IC=1SC=CC1 | C4H3IS
reactant | potassium hydroxide | 4.95 g | [OH-].[K+]
reactant | P(C6H5)3 | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 135 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 250 ml | CCOCC | C4H10O
catalyst | palladium | 310 mg | [Pd] | Pd
catalyst | copper(I) iodide | 180 ml | [Cu]I
product | 1-[4-(2-thienylethynyl)phenoxy]-2-diethylaminoethane | 9 g, 75% | S1C(=CC=C1)C#CC1=CC=C(OCCN(CC)CC)C=C1 | C18H21NOS
